US09403772B2
Synthesis (B) of 4-(5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-4-(o-tolyl)pyridin-2-yl)-1-methyl-1-((phosphonooxy)methyl)piperazin-1-ium chloride hydrochloride
To the solution of chloromethyl di-tert-butyl phosphate in Acetone (22.1 g from a 10% solution, 85.58 mmole), 15.5 g (103.24 mmole) of sodium iodide and 33.0 g (57.00 mmole) of netupitant were added and the solution heated at 50° C. for at 6-16 h. The precipitated salts were filtered off, the acetone distilled under reduced pressure and the crude product dissolved in 43.0 g of methanol and 43.0 g 1,4-dioxane. 12.6 g of HCl 4M in dioxane (113.85 mmole) were added, and then methanol is distilled off at 40° C. under reduced pressure. The solution is cooled at 5° C. and stirred at 5° C. for at least 2 h at 5° C. The product was isolated by filtration, purified by additional slurry in acetone (238 g), and filtered and washed with acetone (47 g) and pentane (2×72 g).

reactant | chloromethyl di-tert-butyl phosphate | P(=O)(OCCl)(OC(C)(C)C)OC(C)(C)C | C9H20ClO4P
reactant | sodium iodide | 103.24 mmole, 15.5 g | [I-].[Na+]
reactant | netupitant | 57.00 mmole, 33.0 g | CC=1C=CC=CC1C=2C=C(N=CC2N(C)C(=O)C(C)(C)C=3C=C(C=C(C3)C(F)(F)F)C(F)(F)F)N4CCN(CC4)C | C30H32F6N4O
reactant | HCl | 4M, 12.6 g | Cl | ClH
reactant | dioxane | 113.85 mmole | O1CCOCC1 | C4H8O2
solvent | Acetone | CC(=O)C | C3H6O
product | 4-(5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-4-(o-tolyl)pyridin-2-yl)-1-methyl-1-((phosphonooxy)methyl)piperazin-1-ium chloride hydrochloride | Cl.[Cl-].FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CC[N+](CC1)(COP(=O)(O)O)C)C1=C(C=CC=C1)C)(C)C)(F)F | InChI=1S/C31H35F6N4O5P.2ClH/c1-20-8-6-7-9-24(20)25-17-27(40-10-12-41(5,13-11-40)19-46-47(43,44)45)38-18-26(25)39(4)28(42)29(2,3)21-14-22(30(32,33)34)16-23(15-21)31(35,36)37;;/h6-9,14-18H,10-13,19H2,1-5H3,(H-,43,44,45);2*1H
